US04595521
A solution, cooled to -20° C., of 331.6 g of tetrabromomethane in 1 l of dry methylene chloride was treated dropwise under nitrogen gasification within 30 minutes with a solution of 524.6 g of triphenylphosphine in 1 l of methylene chloride. The mixture was subsequently stirred at -5° C. for a further 30 minutes, then treated dropwise at this temperature within 30 minutes with a solution of 91.2 g of trans-4-pentylcyclohexanecarboxaldehyde in 500 ml of methylene chloride and stirred at -5° C. for a further 2 hours. The mixture was poured into 6 l of hexane, the mixture was stirred at -20° C. for 1 hour and then the precipitate was filtered off under suction and washed well with about 1 l of cold (-20° C.) hexane. The filtrate was concentrated to a volume of about 1 l on a rotary evaporator, dilued with 2 l of hexane, again concentrated to a volume of about 1 l and stirred at -20° C. for a further 1 hour. The precipitate was filtered off under suction and rinsed well with about 500 ml of cold (-20° C.) hexane. The filtrate was freed from solvent on a rotary evaporator and the yellow oil obtained was filtered chromatographically on silica gel with about 3 l of hexane. The eluate was evaporated up to constant weight on a rotary evaporator, there being obtained 122.8 g (72.6%) of trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane as a colourless oil; Rf-value (hexane) 0.55.

reactant | tetrabromomethane | 331.6 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 524.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trans-4-pentylcyclohexanecarboxaldehyde | 91.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)C=O | C12H22O
reactant | hexane | 6 l | CCCCCC | C6H14
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane | 122.8 g, 72.6% | BrC(=C[C@@H]1CC[C@H](CC1)CCCCC)Br | C13H22Br2
